US06166011
(2S)-1-(1,3-Benzoxazol-2-yl)-2-piperidinecarboxylic acid (270 mg) [see Preparation 3] and 3-[(cis)-2,6-dimethyl-1-piperidinyl]propylamine (180 mg) [J. Am. Chem. Soc. (1971), 71, 3839 and references cited therein] were dissolved in dichloromethane (20 ml). 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (290 mg) and a catalytic amount of 4-dimethylaminopyridine were then added to the reaction mixture. The reaction mixture was then stirred at room temperature for 18 hours, after which time the solvent was removed under reduced pressure and the residue partitioned between ethyl acetate and water. The organic layer was separated, dried over sodium sulphate and the solvent removed under reduced pressure. The crude product was purified by column chromatography on silica gel eluting with a solvent system of 20:1, by volume, dichloromethane:methanol to afford (2S)-N2 -3-[(cis)-2,6-dimethyl-1-piperidinyl]propyl-1-(5-methyl-1,3-benzoxazol-2-yl)-2-piperidinecarboxamide (37 mg) as a solid.

reactant | (2S)-1-(1,3-Benzoxazol-2-yl)-2-piperidinecarboxylic acid | 270 mg | O1C(=NC2=C1C=CC=C2)N2[C@@H](CCCC2)C(=O)O | C13H14N2O3
reactant | 3-[(cis)-2,6-dimethyl-1-piperidinyl]propylamine | 180 mg | C[C@@H]1N([C@@H](CCC1)C)CCCN | C10H22N2
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 290 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | (2S)-N2 -3-[(cis)-2,6-dimethyl-1-piperidinyl]propyl-1-(5-methyl-1,3-benzoxazol-2-yl)-2-piperidinecarboxamide | 37 mg | C[C@@H]1N([C@@H](CCC1)C)CCCNC(=O)[C@H]1N(CCCC1)C=1OC2=C(N1)C=C(C=C2)C | C24H36N4O2
